US08754226B2
To a solution of (S)-tert-butyl 1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-ylcarbamate (4 g, 8.6 mmol) in EtOAc (20 mL) was added HCl in isopropanol (5-6 M, 16 mL) and the reaction was stirred overnight at ambient temperature. The reaction was concentrated under vacuum and the material dissolved in water (about 20 mL). The aqueous layer was basified to about pH 12 using NaOH (1 N) and the aqueous layer extracted with DCM (150 mL). The organic layer was washed with brine (30 mL), dried over MgSO4, filtered and concentrated under vacuum to give (S)-3-amino-1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)pyrrolidin-2-one (3.1 g, 100%).

reactant | (S)-tert-butyl 1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-ylcarbamate | 8.6 mmol, 4 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)NC(OC(C)(C)C)=O)=O | C20H26ClF3N4O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | isopropanol | 5-6 M, 16 mL | C(C)(C)O | C3H8O
product | (S)-3-amino-1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)pyrrolidin-2-one | 3.1 g, 100% | N[C@@H]1C(N(CC1)C1CCN(CC1)C1=NC=C(C=C1Cl)C(F)(F)F)=O | C15H18ClF3N4O
